US08168658B2
[4-(tert-Butoxycarbonyl)phenyl]acetic acid (2.94 g, 12.4 mmol) and DMAP (152 mg, 1.24 mmol) were dissolved in CH2Cl2 (50 mL) and cooled to 0° C. EDCI (3.10 g, 16.2 mmol) and MeOH (660 μL, 16.2 mmol) were added. After stirring for 30 min at 0° C., the reaction was allowed to warm to room temperature and stirred 2 h. The mixture was then diluted with CH2Cl2, washed (sat. NaHCO3, brine), dried (MgSO4), and concentrated. Flash chromatography on silica gel (0-10% EtOAc/hexanes) afforded tert-butyl 4-(2-methoxy-2-oxoethyl)benzoate as a colorless oil. 1H NMR (CDCl3) δ 7.93 (d, J=8.2 Hz, 2H), 7.31 (d, J=8.5 Hz, 2H), 3.68 (s, 3H), 3.66 (s, 2H), 1.57 (s, 9H). MS (ESI) calcd [M+Na]+ 273.1, found 273.1.

reactant | [4-(tert-Butoxycarbonyl)phenyl]acetic acid | 12.4 mmol, 2.94 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC(=O)O | C13H16O4
reactant | EDCI | 16.2 mmol, 3.10 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | MeOH | 16.2 mmol, 660 μL | CO | CH4O
catalyst | DMAP | 1.24 mmol, 152 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-methoxy-2-oxoethyl)benzoate | COC(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C14H18O4
